US04818756
Preparation of 2-(3-(4-(2-pyrimidinyl)-1-piperazinyl)propyl)-4-methyl-7-methoxy-1,2,4-benzothiadiazin-3(4H)one 1,1-dioxide
0.028 mol of 2-(3-(4-(2-pyrimidinyl)-1-piperazinyl)propyl)-7-methoxy-1,2,4-benzothiadiazin-3(4H)one 1,1-dioxide is dissolved in 150 mol of absolute DMF, and 0.028 mol of sodium hydride is added to the solution and the mixture is stirred at room temperature for 0.25 hour. Then 0.028 mol of methyl iodide is added and the mixture is stirred at 25° C. for a further 2 hours. The product is precipitated as crystals by dropwise addition of a total of 18 ml of water. It is purified by crystallisation from isopropanol.

reactant | 2-(3-(4-(2-pyrimidinyl)-1-piperazinyl)propyl)-7-methoxy-1,2,4-benzothiadiazin-3(4H)one 1,1-dioxide | 0.028 mol | N1=C(N=CC=C1)N1CCN(CC1)CCCN1S(C2=C(NC1=O)C=CC(=C2)OC)(=O)=O | C19H24N6O4S
reactant | DMF | 150 mol | CN(C)C=O | C3H7NO
reactant | sodium hydride | 0.028 mol | [H-].[Na+]
reactant | methyl iodide | 0.028 mol | CI | CH3I
product | 2-(3-(4-(2-pyrimidinyl)-1-piperazinyl)propyl)-4-methyl-7-methoxy-1,2,4-benzothiadiazin-3(4H)one 1,1-dioxide | N1=C(N=CC=C1)N1CCN(CC1)CCCN1S(C2=C(N(C1=O)C)C=CC(=C2)OC)(=O)=O | C20H26N6O4S
